US08389511B2
6-Bromo-1,3-dihydro-2H-indol-2-one
To 6-bromo-1H-indole-2,3-dione (15 g) was added hydrazine (66 ml), and the mixture was stirred at 125° C. for 2 hours. After the reaction was complete, to the mixture was added 6N aqueous HCl solution (60 ml), and the mixture was stirred at 60° C. for 2 hours. After the reaction was complete, the mixture was neutralized with 3N aqueous NaOH solution, and the mixture was extracted with ethyl acetate. This ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated to give the title compound (9.1 g) as a red crystal.

reactant | 6-bromo-1H-indole-2,3-dione | 15 g | BrC1=CC=C2C(C(NC2=C1)=O)=O | C8H4BrNO2
reactant | hydrazine | 66 ml | NN | H4N2
reactant | NaOH | 3N | [OH-].[Na+]
solvent | HCl | 6N, 60 ml | Cl | ClH
product | 6-Bromo-1,3-dihydro-2H-indol-2-one | 9.1 g | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
